US04357342
Benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (25 mg) is hydrogenated at 40 psi for 1 hr in dioxane (2 ml) containing ethanol (0.5 ml), H2O (0.5 ml), NaHCO3 (8.1 mg) and 10% Pd/C (10 mg). The mixture is filtered to remove the catalyst which is washed with more H2O (2.5 ml). The combined filtrate and washing is extracted with EtOAc (3×2 ml), concentrated under reduced pressure, and lyophilized to provide sodium 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate.

reactant | Benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 25 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | H2O | 0.5 ml | O | H2O
reactant | NaHCO3 | 8.1 mg | C(=O)(O)[O-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | sodium 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | N12C(C(CC2CC1=O)=O)C(=O)[O-].[Na+] | InChI=1S/C7H7NO4.Na/c9-4-1-3-2-5(10)8(3)6(4)7(11)12;/h3,6H,1-2H2,(H,11,12);/q;+1/p-1
